US04497808
Analogously to the process described in Example 1 there is obtained from 12.3 g of pyridine-4-carboxaldehyde-1-oxide, 25.7 ml of ethyl acetoacetate and 10 ml of 30% aqueous ammonia in 20 ml of absolute ethanol, 2,6-dimethyl-4-(1-oxido-4-pyridyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester which, after recrystallisation from 100 ml of isopropanol, melts at 229°-231°.

reactant | ethyl acetoacetate | 25.7 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | ammonia | 10 ml | N | H3N
reactant | 2,6-dimethyl-4-(1-oxido-4-pyridyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=[N+](C=C1)[O-])C(=O)OCC)C)C | C18H22N2O5
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | pyridine-4-carboxaldehyde-1-oxide | 12.3 g | [N+]1(=CC=C(C=C1)C=O)[O-] | C6H5NO2
